US06835216B2
Preparation of 2-methoxy-4,6-dimethyl-5-pyrimidinol
The 2-methoxy-4,6-dimethyl-5-benzyloxy pyrimidine 0.7 g (2.7 mmol) is dissolved in 10 ml of ethanol with 0.3 g (5.4 mmol) of KOH. The whole is refluxed for 11 hours, and after cooling the reaction is diluted with 20 ml of water and brought to pH 5 with glacial acetic acid. The mixture is extracted into ethyl acetate (3×25 ml), dried over Na2SO4 and stripped in vacuo. The resulting solid is purified by column chromatography on silica gel using 9:1 hexane:ethyl acetate as eluent. The yield is 0.4 g (98%).

reactant | 2-methoxy-4,6-dimethyl-5-benzyloxy pyrimidine | 2.7 mmol, 0.7 g | COC1=NC(=C(C(=N1)C)OCC1=CC=CC=C1)C | C14H16N2O2
reactant | KOH | 5.4 mmol, 0.3 g | [OH-].[K+]
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | ethanol | 10 ml | C(C)O | C2H6O
solvent | water | 20 ml | O | H2O
product | 2-methoxy-4,6-dimethyl-5-pyrimidinol | COC1=NC(=C(C(=N1)C)O)C | C7H10N2O2
